Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Norvasc
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ y/o female with hx of DM2, CKDIII,
depression, HCV, prior ETOH abuse, chronic lower back pain on
chronic Tylenol 3 who was referred to the ED via her PCP for low
grade temp and diffuse abdominal pain which has reportedly
existed for the past 2 weeks associated with reported
diaphoresis, chills, and "hot flashes." However, within the last
24 hours her pain has intensified and is now associated with
nausea/emesis. 

On presentation pt. is in no acute distress with complaints of
abdominal pain across her abdomen radiating to her bilateral ___.
She states her last BM was ___ and frequently suffers from
constipation requiring MOM and ___. She endorses loss of
appetite, mild nausea but denies chest pain, SOB, and dizziness.
 
Past Medical History:
Past Medical History:
-Chronic Lower Back Pain 
-Glaucoma 
-Arthritis

Past Surgical History:
-Laparoscopic Roux-en-Y
-Hysterectomy 
-Btl Knee Replacements 
-Right Ankle Surgery
-AbdominoPlasty 
 
Social History:
Social History:
Etoh:Pt.denies; Prior EOTH abuse quit ___ yrs ago
Tobacco: Pt. denies 
Illicits:Pt. denies

 
Physical Exam:
Vitals:
T 98.1PO BP 136 / 82 HR 66 RR 18 O2 sat99 Ra 
Gen: Alert and oriented, no acute distress
CV: Regular rate and rhythm
Pulm: breathing unlabored on room air
Abd: soft, nontender, nondistended, no rebound, rigidity or 
guarding
Ext: Atraumatic, warm and well perfused
 
Pertinent Results:
___ 01:15PM BLOOD WBC-10.9* RBC-3.86* Hgb-11.4 Hct-36.2 
MCV-94 MCH-29.5 MCHC-31.5* RDW-13.7 RDWSD-47.0* Plt ___
___ 07:03AM BLOOD WBC-12.9* RBC-3.67* Hgb-10.8* Hct-33.7* 
MCV-92 MCH-29.4 MCHC-32.0 RDW-13.7 RDWSD-46.3 Plt ___
___ 07:21AM BLOOD WBC-11.5* RBC-3.53* Hgb-10.3* Hct-32.6* 
MCV-92 MCH-29.2 MCHC-31.6* RDW-13.5 RDWSD-45.8 Plt ___
___ 07:13AM BLOOD WBC-8.7 RBC-3.20* Hgb-9.1* Hct-29.4* 
MCV-92 MCH-28.4 MCHC-31.0* RDW-13.3 RDWSD-45.0 Plt ___
___ 01:15PM BLOOD Glucose-100 UreaN-13 Creat-1.2* Na-138 
K-4.5 Cl-102 HCO3-25 AnGap-11
___ 07:03AM BLOOD Glucose-107* UreaN-11 Creat-1.1 Na-140 
K-4.3 Cl-103 HCO3-23 AnGap-14
___ 07:21AM BLOOD Glucose-59* UreaN-11 Creat-0.9 Na-141 
K-4.0 Cl-102 HCO3-22 AnGap-17
___ 07:13AM BLOOD Glucose-102* UreaN-9 Creat-0.9 Na-139 
K-3.9 Cl-102 HCO3-23 AnGap-14
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on 
___ for evaluation and treatment of abdominal pain.  
Admission abdominal/pelvic CT revealed perforated appendicitis 
without drainable fluid collection. WBC was elevated at 12.9. 
The patient was started on IV antibiotics, made NPO, and 
resuscitated with IV fluids. She recovered well. Her pain slowly 
improved and her WBC trended downwards. On hospital day 2, her 
diet was advanced to sips which she tolerated without issue. on 
hospital day 3, her diet was again advanced to clear liquids. On 
___ she was advanced to a regular diet.

When tolerating a diet, the patient was converted to oral pain 
medication with continued good effect. Her antibiotics were 
transitioned to PO. Diet was progressively advanced as tolerated 
to a regular diet with good tolerability. The patient voided 
without problem. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay. On ___, her 
abdominal pain had completely resolved.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
2. BuPROPion (Sustained Release) 200 mg PO QAM 
3. Gabapentin 200 mg PO BID 
4. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Escitalopram Oxalate 20 mg PO DAILY 
7. Senna 8.6 mg PO BID:PRN Constipation - First Line 
8. Acetaminophen w/Codeine 1 TAB PO Q8H:PRN Pain - Moderate 
9. Baclofen 20 mg PO QHS 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H appendicitis 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every 12 hours 
Disp #*20 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0 
3.  Acetaminophen w/Codeine 1 TAB PO Q8H:PRN Pain - Moderate  
4.  Baclofen 20 mg PO QHS  
5.  BuPROPion (Sustained Release) 200 mg PO QAM  
6.  Escitalopram Oxalate 20 mg PO DAILY  
7.  Ferrous Sulfate 325 mg PO DAILY  
8.  Gabapentin 200 mg PO BID  
9.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
10.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
11.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
perforated appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ for a 
perforated appendicitis and underwent conservative management 
with antibiotics. You are recovering well and are now ready for 
discharge. Please follow the instructions below to continue your 
recovery:

 
HOW YOU MAY FEEL: 
-You may feel weak or "washed out" for a couple of weeks. You 
might want to nap often. Simple tasks may exhaust you.
-You may have a sore throat because of a tube that was in your 
throat during surgery.
-You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
-You could have a poor appetite for a while. Food may seem 
unappealing.
-All of these feelings and reactions are normal and should go 
away in a short time.  If they do not, tell your surgeon.
  
YOUR BOWELS:
-Constipation is a common side effect of narcotic pain 
medications. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
-If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon. 
 
PAIN MANAGEMENT:
-It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
-Your pain should get better day by day. If you find the pain is 
getting worse instead of better, please contact your surgeon.
-You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. o Do 
not take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed.
-Your pain medicine will work better if you take it before your 
pain gets too severe.
-Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
-If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.

If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.
If you have any questions about what medicine to take or not to 
take, please call your surgeon.

Warm regards, 

Your ___ Surgery Team 

 
Followup Instructions:
___